US08975400B2
7-((3,4-difluorobenzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E65 using sodium hydride (44.2 mg, 1.104 mmol) in THF (5 mL), (3,4-difluorophenyl)methanol (106 mg, 0.736 mmol) and tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate (100 mg, 0.368 mmol).

reactant | sodium hydride | 1.104 mmol, 44.2 mg | [H-].[Na+]
reactant | (3,4-difluorophenyl)methanol | 0.736 mmol, 106 mg | FC=1C=C(C=CC1F)CO | C7H6F2O
reactant | tert-butyl 7-chloro-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylate | 0.368 mmol, 100 mg | ClC=1C=C2N(C(N1)=O)CCN2C(=O)OC(C)(C)C | C11H14ClN3O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-((3,4-difluorobenzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(COC=2C=C3N(C(N2)=O)CCN3)C=CC1F | C13H11F2N3O2
